US05296484
4-[1-[4-(t-Butyl)phenyl]ethoxy]quinazoline
To a mixture of 0.5 g of sodium hydride in 100 ml of DMF was added 2.0 g of 1-[4-(t-butyl)phenyl]ethanol, and the resulting mixture was stirred at room temperature for one hour. Then 1.8 g of 4-chloroquinazoline in 30 ml of DMF were added. The mixture was stirred at room temperature for three hours, then poured into an ice/water mixture. The product was extracted into ether, the ether solution was concentrated and the residue was recrystallized from a pentane/ethyl acetate mixture to give 0.300 g of the title product. M.P. 85°-86° C.

reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | 1-[4-(t-butyl)phenyl]ethanol | 2.0 g | C(C)(C)(C)C1=CC=C(C=C1)C(C)O | C12H18O
reactant | 4-chloroquinazoline | 1.8 g | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-[1-[4-(t-Butyl)phenyl]ethoxy]quinazoline | 0.300 g | C(C)(C)(C)C1=CC=C(C=C1)C(C)OC1=NC=NC2=CC=CC=C12 | C20H22N2O
